US04386089
7-[2-(2-tert.-Butoxycarbonylimino-4-thiazolin-4-yl)-2-oxoacetamido]-3-acetoxymethyl-3-cephem-4-carboxylic acid
2.7 g of 2-(2-tert.-butoxycarbonylimino-4-thiazolin-4-yl)-glyoxylic acid containing one molar equivalent of crystal alcohol are activated with a total of 2 ml of chloroformic acid ethyl ester (added in 3 portions) in 40 ml of methylene chloride at -30° C. in the presence of 2.8 ml of triethylamine and 2 drops of 3-dimethylaminopropanol, and the mixture is then combined with a solution of 3.6 g of 7-aminocephalosporanic acid in a mixture of 40 ml of methylene chloride and 3.6 ml of triethylamine. The resulting mixture is then allowed to come to 20° C., after 2 hours the methylene chloride is stripped off, the aqueous solution which remains is washed with ethyl acetate, then acidified (pH 1.5) and extracted with ethyl acetate and the dried organic phase is evaporated in vacuo. The residue is washed with methylene chloride and dried.

reactant | 2-(2-tert.-butoxycarbonylimino-4-thiazolin-4-yl)-glyoxylic acid | one molar, 2.7 g | C(C)(C)(C)OC(=O)N=C1SC=C(N1)C(C(=O)O)=O | C10H12N2O5S
reactant | chloroformic acid ethyl ester | 2 ml | C(C)OC(=O)Cl | C3H5ClO2
reactant | 7-aminocephalosporanic acid | 3.6 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
catalyst | 3-dimethylaminopropanol | 2 drops | CN(CCCO)C | C5H13NO
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 3.6 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
product | 7-[2-(2-tert.-Butoxycarbonylimino-4-thiazolin-4-yl)-2-oxoacetamido]-3-acetoxymethyl-3-cephem-4-carboxylic acid | C(C)(C)(C)OC(=O)N=C1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O)=O | C20H22N4O9S2
